US07456315B2
N′-(2,3-Dimethyl-benzoyl)-hydrazinecarboxylic acid, tert-butyl ester (70.3 g, 266 moles) was placed in to a 500 mL round bottom flask. With gentle stirring, 200 mL of trifluoroacetic acid (296 g, 2.6 moles) was slowly added, resulting in a vigorous evolution of gas. The reaction mixture was then stirred at room temperature for 2 hours. Water (ca. 100 mL) was then added slowly to the mixture. The mixture was slowly added to 1 L of a cold 2 M K2CO3 solution, contained in a 2 L beaker, while stirring slowly (evolution of gas). About 200 mL of a 10% NaOH solution and 250 mL of CH2Cl2 were added. The reaction mixture was transferred to a large separatory funnel and gently shaken (gas evolution). The aqueous phase was extracted with CHCl3 and the extracts dried and evaporated to yield a white solid, which was dried in a 50° C. vacuum oven to yield 31.72 g (73% yield) of 2,3-dimethyl-benzoic acid hydrazide. 1H NMR (CDCl3, 300 MHz) δ (ppm): 7-7.3 (m, 4H), 4.00 (br s, 2H), 2.271 (s, 6H).

reactant | N′-(2,3-Dimethyl-benzoyl)-hydrazinecarboxylic acid, tert-butyl ester | 266 moles, 70.3 g | CC1=C(C(=O)NNC(=O)OC(C)(C)C)C=CC=C1C | C14H20N2O3
reactant | trifluoroacetic acid | 2.6 moles, 200 mL, 296 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | K2CO3 | 2 M | C(=O)([O-])[O-].[K+].[K+]
reactant | NaOH | [OH-].[Na+]
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
solvent | Water | ca. 100 mL | O | H2O
product | 2,3-dimethyl-benzoic acid hydrazide | 31.72 g, 73% yield | CC1=C(C(=O)NN)C=CC=C1C | C9H12N2O
